US04473690
92.1 g (0.353 mol) of diphenyl(4-pyridyl)methyl alcohol recrystallized from chloroform and 800 ml of simple-distillation benzene were charged in a 2-l three-necked flask provided with a stirrer and reflux condenser. The mixture was treated at 50° C. to form a suspension. 29.6 ml (0.407 mol) of thionyl chloride was poured in the suspension and the mixture was stirred under reflux for 1 h. The resulting solution was cooled to room temperature. 72.5 ml (0.522 mol) of triethylamine was added thereto and the mixture was stirred for 7 h. The reaction solution was filtered and the filtrate was concentrated to obtain crude diphenyl(4-pyridyl)methyl chloride.

reactant | diphenyl(4-pyridyl)methyl alcohol | 0.353 mol, 92.1 g | C1(=CC=CC=C1)C(C1=CC=NC=C1)(C1=CC=CC=C1)O | C18H15NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | 0.407 mol, 29.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 0.522 mol, 72.5 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | diphenyl(4-pyridyl)methyl chloride | C1(=CC=CC=C1)C(C1=CC=NC=C1)(C1=CC=CC=C1)Cl | C18H14ClN
